US07176224B2
C. 2-(2-Fluorophenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester
2-(2-Fluorophenoxy-3-(4-benzyloxyphenyl)-2-methyl-propionic acid ethyl ester (2.1 mmol) was dissolved in ethyl acetate (30 mL) and treated with 5% palladiun on carbon (300 mg), and stirred under an atmosphere of hydrogen for 20 h. The suspension was filtered through celite and concentrated in vacuo to an oil.

reactant | 2-Fluorophenoxy-3-(4-benzyloxyphenyl)-2-methyl-propionic acid ethyl ester | 2.1 mmol | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=C(C=CC=C1)F)=O | C25H25FO4
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Fluorophenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)F)=O | C18H19FO4
